US06780431B1
N-[(4-Nitrophenyl)methyl]-5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-methoxybenzamide
5-[(2,4-Dioxothiazolidin-5-yl)methyl]-2-methoxybenzoic acid (422 mg, 1.50 mmol), triethylamine (0.732 mL, 5.25 mmol) and methylene chloride (7 mL) were mixed and ethyl chlorocarbonate (0.158 mL, 1.50 mmol) was added under cooling with ice and stirring. After stirring for 10 minutes under cooling with ice, 4-nitrobenzylamine (283 mg, 1.50 mmol) was added. The mixture was stirred for 2 hours at room temperature, and then allowed to stand overnight. After washed with water, the reaction mixture was dried over anhydrous sodium sulfate and concentrated. The residue was dissolved into water (20 mL), which was made acidic with 10% hydrochloric acid and stirred for 2 hours. The precipitated crystals were collected by filtration, washed with water and dried, then they were recrystallized from ethanol to obtain 472 mg (75%) of the title compound as pale yellow prisms.

reactant | 5-[(2,4-Dioxothiazolidin-5-yl)methyl]-2-methoxybenzoic acid | 1.50 mmol, 422 mg | O=C1SC(C(N1)=O)CC=1C=CC(=C(C(=O)O)C1)OC | C12H11NO5S
reactant | triethylamine | 5.25 mmol, 0.732 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.50 mmol, 0.158 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-nitrobenzylamine | 1.50 mmol, 283 mg | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-Nitrophenyl)methyl]-5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-methoxybenzamide | 472 mg, 75% | [N+](=O)([O-])C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)CC1C(NC(S1)=O)=O)OC)=O | C19H17N3O6S
